US06388092B2
26A. (6-Chloro-pyridin-3-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol
Following the same procedure as that described in example 1E, 6-bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline (2 g, 5.59 mmol) and (6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanone (1.48 g, 6.70 mmol) generated the title compound of 26A (1.458 g, 52% yield).

reactant | 6-bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline | 5.59 mmol, 2 g | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C18H16BrNO2
reactant | (6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanone | 6.70 mmol, 1.48 g | ClC1=CC=C(C=N1)C(=O)C=1N(C=NC1)C | C10H8ClN3O
product | (6-Chloro-pyridin-3-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 1.458 g, 52% yield | ClC1=CC=C(C=N1)C(O)(C=1N(C=NC1)C)C=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C28H25ClN4O3
